** sch_path: /home/take/Design/tr10_sram/sram/sram_16w2b_top.sch
.subckt sram_16w2b_top VDD WLE DOUT0 VSS A0 WE DIN0 DIN1 PCB DOUT1
*.PININFO VDD:B WLE:I DOUT0:O VSS:B A0:I WE:I DIN0:I DIN1:I PCB:I DOUT1:O
x2 VDD VSS WL0 WLE A0 net1 decoder
x3 DIN0 VDD BL0 BLB0 VSS DIN1 BL1 WE BLB1 WEB write_driver
x4 VDD VSS PCB EQEN BL0 BLB0 BL1 BLB1 precharge
x5 VDD VSS BLB0 BLB1 DOUT0 DOUT1 read_buffer
MXM1 WEB WE VSS VSS NMOS w=3.4u l=1u
MXM2 WEB WE VDD VDD PMOS w=6.8u l=1u
MXM3 EQEN PCB VSS VSS NMOS w=3.4u l=1u
MXM4 EQEN PCB VDD VDD PMOS w=6.8u l=1u
x1 BL0 VDD WL0 VSS BL1 VSS VSS BLB1 VSS BLB0 VSS VSS VSS VSS VSS VSS VSS VSS VSS VSS WL15 VSS sram_16w2b
x6 VDD VSS net2 WLE A0 net3 decoder
x7 VDD VSS net4 WLE A0 net5 decoder
x8 VDD VSS net6 WLE A0 net7 decoder
x9 VDD VSS net8 WLE A0 net9 decoder
x10 VDD VSS net10 WLE A0 net11 decoder
x11 VDD VSS net12 WLE A0 net13 decoder
x12 VDD VSS net14 WLE A0 WL15 decoder
.ends

* expanding   symbol:  decoder.sym # of pins=6
** sym_path: /home/take/Design/tr10_sram/sram/decoder.sym
** sch_path: /home/take/Design/tr10_sram/sram/decoder.sch
.subckt decoder VDD VSS WL0 WLE A0 WL1
*.PININFO VDD:B VSS:B WLE:I WL0:O WL1:O A0:I
MXM7 A0B A0 VDD VDD PMOS w=6.8u l=1u
MXM8 A0B A0 VSS VSS NMOS w=3.4u l=1u
MXM9 net2 WLE VDD VDD PMOS w=6.8u l=1u
MXM10 net1 WLE VSS VSS NMOS w=6.8u l=1u
MXM11 net2 A0B net1 VSS NMOS w=6.8u l=1u
MXM12 net2 A0B VDD VDD PMOS w=6.8u l=1u
MXM13 WL0 net2 VDD VDD PMOS w=6.8u l=1u
MXM14 WL0 net2 VSS VSS NMOS w=3.4u l=1u
MXM15 net4 WLE VDD VDD PMOS w=6.8u l=1u
MXM16 net3 WLE VSS VSS NMOS w=6.8u l=1u
MXM17 net4 A0 net3 VSS NMOS w=6.8u l=1u
MXM18 net4 A0 VDD VDD PMOS w=6.8u l=1u
MXM19 WL1 net4 VDD VDD PMOS w=6.8u l=1u
MXM20 WL1 net4 VSS VSS NMOS w=3.4u l=1u
.ends


* expanding   symbol:  write_driver.sym # of pins=10
** sym_path: /home/take/Design/tr10_sram/sram/write_driver.sym
** sch_path: /home/take/Design/tr10_sram/sram/write_driver.sch
.subckt write_driver DIN0 VDD BL0 BLB0 VSS DIN1 BL1 WE BLB1 WEB
*.PININFO DIN0:I DIN1:I WE:I WEB:I BL0:B BLB0:B BL1:B BLB1:B VDD:B VSS:B
MXM15 DIN0B DIN0 VDD VDD PMOS w=6.8u l=1u
MXM16 DIN0B DIN0 VSS VSS NMOS w=3.4u l=1u
MXM7 BL0 WE DIN0 VSS NMOS w=5.2u l=1u
MXM8 DIN0 WEB BL0 VDD PMOS w=6.8u l=1u
MXM1 BLB0 WE DIN0B VSS NMOS w=5.2u l=1u
MXM2 DIN0B WEB BLB0 VDD PMOS w=6.8u l=1u
MXM3 DIN1B DIN1 VDD VDD PMOS w=6.8u l=1u
MXM4 DIN1B DIN1 VSS VSS NMOS w=3.4u l=1u
MXM5 BL1 WE DIN1 VSS NMOS w=5.2u l=1u
MXM6 DIN1 WEB BL1 VDD PMOS w=6.8u l=1u
MXM9 BLB1 WE DIN1B VSS NMOS w=5.2u l=1u
MXM10 DIN1B WEB BLB1 VDD PMOS w=6.8u l=1u
.ends


* expanding   symbol:  precharge.sym # of pins=8
** sym_path: /home/take/Design/tr10_sram/sram/precharge.sym
** sch_path: /home/take/Design/tr10_sram/sram/precharge.sch
.subckt precharge VDD VSS PCB EQEN BL0 BLB0 BL1 BLB1
*.PININFO VDD:B VSS:B PCB:I EQEN:I BL0:B BLB0:B BL1:B BLB1:B
MXM9 BL0 PCB VDD VDD PMOS w=3.4u l=1u
MXM10 BLB0 PCB VDD VDD PMOS w=3.4u l=1u
MXM11 BL0 EQEN BLB0 VSS NMOS w=3.4u l=1u
MXM12 BL1 PCB VDD VDD PMOS w=3.4u l=1u
MXM13 BLB1 PCB VDD VDD PMOS w=3.4u l=1u
MXM14 BL1 EQEN BLB1 VSS NMOS w=3.4u l=1u
.ends


* expanding   symbol:  read_buffer.sym # of pins=6
** sym_path: /home/take/Design/tr10_sram/sram/read_buffer.sym
** sch_path: /home/take/Design/tr10_sram/sram/read_buffer.sch
.subckt read_buffer VDD VSS BLB0 BLB1 DOUT0 DOUT1
*.PININFO VDD:B VSS:B BLB0:I BLB1:I DOUT0:O DOUT1:O
MXM15 DOUT0 BLB0 VDD VDD PMOS w=6.8u l=1u
MXM16 DOUT0 BLB0 VSS VSS NMOS w=3.4u l=1u
MXM1 DOUT1 BLB1 VDD VDD PMOS w=6.8u l=1u
MXM2 DOUT1 BLB1 VSS VSS NMOS w=3.4u l=1u
.ends


* expanding   symbol:  sram_16w2b.sym # of pins=22
** sym_path: /home/take/Design/tr10_sram/sram/sram_16w2b.sym
** sch_path: /home/take/Design/tr10_sram/sram/sram_16w2b.sch
.subckt sram_16w2b BL0 VDD WL0 WL8 BL1 VSS WL1 BLB1 WL9 BLB0 WL2 WL10 WL3 WL11 WL4 WL12 WL5 WL13 WL6 WL14 WL15 WL7
*.PININFO VDD:B BL0:B BLB0:B BL1:B BLB1:B WL0:I WL1:I WL2:I WL3:I WL4:I WL5:I WL6:I WL7:I VSS:B WL8:I WL9:I WL10:I WL11:I WL12:I
*+ WL13:I WL14:I WL15:I
x17 BL0 BLB0 WL0 VDD VSS sram6t_tr10
x3 BL1 BLB1 WL0 VDD VSS sram6t_tr10
x1 BL0 BLB0 WL1 VDD VSS sram6t_tr10
x2 BL1 BLB1 WL1 VDD VSS sram6t_tr10
x6 BL0 BLB0 WL2 VDD VSS sram6t_tr10
x7 BL1 BLB1 WL2 VDD VSS sram6t_tr10
x8 BL0 BLB0 WL3 VDD VSS sram6t_tr10
x18 BL1 BLB1 WL3 VDD VSS sram6t_tr10
x9 BL0 BLB0 WL4 VDD VSS sram6t_tr10
x10 BL1 BLB1 WL4 VDD VSS sram6t_tr10
x11 BL0 BLB0 WL5 VDD VSS sram6t_tr10
x12 BL1 BLB1 WL5 VDD VSS sram6t_tr10
x13 BL0 BLB0 WL6 VDD VSS sram6t_tr10
x14 BL1 BLB1 WL6 VDD VSS sram6t_tr10
x15 BL0 BLB0 WL7 VDD VSS sram6t_tr10
x16 BL1 BLB1 WL7 VDD VSS sram6t_tr10
x4 BL0 BLB0 WL8 VDD VSS sram6t_tr10
x5 BL1 BLB1 WL8 VDD VSS sram6t_tr10
x19 BL0 BLB0 WL9 VDD VSS sram6t_tr10
x20 BL1 BLB1 WL9 VDD VSS sram6t_tr10
x21 BL0 BLB0 WL10 VDD VSS sram6t_tr10
x22 BL1 BLB1 WL10 VDD VSS sram6t_tr10
x23 BL0 BLB0 WL11 VDD VSS sram6t_tr10
x24 BL1 BLB1 WL11 VDD VSS sram6t_tr10
x25 BL0 BLB0 WL12 VDD VSS sram6t_tr10
x26 BL1 BLB1 WL12 VDD VSS sram6t_tr10
x27 BL0 BLB0 WL13 VDD VSS sram6t_tr10
x28 BL1 BLB1 WL13 VDD VSS sram6t_tr10
x29 BL0 BLB0 WL14 VDD VSS sram6t_tr10
x30 BL1 BLB1 WL14 VDD VSS sram6t_tr10
x31 BL0 BLB0 WL15 VDD VSS sram6t_tr10
x32 BL1 BLB1 WL15 VDD VSS sram6t_tr10
.ends


* expanding   symbol:  sram6t_tr10.sym # of pins=5
** sym_path: /home/take/Design/tr10_sram/sram/sram6t_tr10.sym
** sch_path: /home/take/Design/tr10_sram/sram/sram6t_tr10.sch
.subckt sram6t_tr10 BL BLB WL VDD VSS
*.PININFO BL:B BLB:B WL:I VDD:B VSS:B
MXM1 net1 net2 VDD VDD PMOS w=3.4u l=1u
MXM2 net2 net1 VDD VDD PMOS w=3.4u l=1u
MXM4 net2 net1 VSS VSS NMOS w=6.8u l=1u
MXM3 net1 net2 VSS VSS NMOS w=6.8u l=1u
MXM5 BL WL net1 VSS NMOS w=5.1u l=1u
MXM6 BLB WL net2 VSS NMOS w=5.1u l=1u
.ends

